US06331538B1
Ethyl 2-chloro-5-fluoro-6-(4-methylpiperazinyl)-3-pyridinecarboxylate
Following the procedure of Example C-2, the reaction of 2,6-dichloro-5-fluoro-3-pyridinecarboxylate (2.00 g, 8.4 mmol) with 4-methylpiperazine (0.95 mL, 8.4 mmol) in acetonitrile (10 mL) in the presence of triethylamine (1.75 mL, 12.58 mmol) gave 2.34 g of the title compound as an oil.

reactant | 2,6-dichloro-5-fluoro-3-pyridinecarboxylate | 8.4 mmol, 2.00 g | ClC1=NC(=C(C=C1C(=O)[O-])F)Cl
reactant | 4-methylpiperazine | 8.4 mmol, 0.95 mL | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 12.58 mmol, 1.75 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Ethyl 2-chloro-5-fluoro-6-(4-methylpiperazinyl)-3-pyridinecarboxylate | 2.34 g | ClC1=NC(=C(C=C1C(=O)OCC)F)N1CCN(CC1)C | C13H17ClFN3O2
